US07411072B2
N-[3-(2-Chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-methanesulfonamide (Z isomer and E isomer)
Following procedures essentially as described in Example 219, below, and using 5-bromomethylene-2-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (100 mg, 0.313 mmol) and 3-methanesulfonylaminophenylboronic acid (74 mg, 0.344 mmol), affords 37 mg (29%) of the Z-isomer (Example 206(a)) of the title compound as a colorless oil (MS (ES) 408 (M−H). HPLC shows 99% purity. Continue to elute and obtain 23 mg (18%) of the E-isomer (Example (b)) of the title compound as a colorless oil (MS (ES) 408 (M−H); HPLC shows 92% purity).

reactant | 5-bromomethylene-2-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.313 mmol, 100 mg | BrC=C1C2=C(CCC3=C1C=CC(=C3)Cl)C=CC=C2 | C16H12BrCl
reactant | 3-methanesulfonylaminophenylboronic acid | 0.344 mmol, 74 mg | CS(=O)(=O)NC=1C=C(C=CC1)B(O)O | C7H10BNO4S
product | N-[3-(2-Chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-methanesulfonamide | ClC1=CC2=C(C(C3=C(CC2)C=CC=C3)=CC=3C=C(C=CC3)NS(=O)(=O)C)C=C1 | C23H20ClNO2S
